US04902794
In the manner given in Example 1, a solution of 1,3-dihydro-6-trifluoromethyl-5-[m-(methylsulfonyl)phenyl]-2H-1,4-benzodiazepine-2-thione in n-butyl alcohol was heated to reflux with propoxyacetic acid hydrazide to give 7-trifluoromethyl-1-(propoxymethyl)-6-[m-(methylsulfonyl)phenyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1,3-dihydro-6-trifluoromethyl-5-[m-(methylsulfonyl)phenyl]-2H-1,4-benzodiazepine-2-thione | FC(C1=CC=CC2=C1C(=NCC(N2)=S)C2=CC(=CC=C2)S(=O)(=O)C)(F)F | C17H13F3N2O2S2
reactant | propoxyacetic acid hydrazide | C(CC)OCC(=O)NN | C5H12N2O2
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | 7-trifluoromethyl-1-(propoxymethyl)-6-[m-(methylsulfonyl)phenyl]-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC(C1=CC=CC2=C1C(=NCC=1N2C(=NN1)COCCC)C1=CC(=CC=C1)S(=O)(=O)C)(F)F | C22H21F3N4O3S
